US08138197B2
Methyl 5-(tetrazol-5-yl)biphenyl-3-carboxylate
Sodium azide (880 mg) and triethylamine hydrochloride (1.9 g) were added to a DMF (40 mL) solution of methyl 5-cyanobiphenyl-3-carboxylate (1.09 g), and stirred at 100° C. for 9 hours. With cooling with ice, diluted hydrochloric acid was added to it, the formed precipitate was taken out through filtration, washed with water, and dried to obtain the title compound as a white powder.

reactant | Sodium azide | 880 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 1.9 g | Cl.C(C)N(CC)CC
reactant | methyl 5-cyanobiphenyl-3-carboxylate | 1.09 g | C(#N)C=1C=C(C=C(C1)C1=CC=CC=C1)C(=O)OC | C15H11NO2
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | Methyl 5-(tetrazol-5-yl)biphenyl-3-carboxylate | N1N=NN=C1C=1C=C(C=C(C1)C1=CC=CC=C1)C(=O)OC | C15H12N4O2
